US08835648B2
2-(5-Bromo-2-chloro-phenyl)-5-methoxy-benzoimidazole-1-carboxylic acid tert-butyl ester
Method 4—Step c To a flask with 2-(5-Bromo-2-chloro-phenyl)-5-methoxy-1H-benzoimidazole (6.50 g, 19.29 mmol), DMAP (0.23 g, 1.93 mmol), Boc2O (5.47 g, 25.07 mmol) and dichloromethane (100 mL) were added. The reaction mixture was stirred at room temperature overnight and solvent was removed under reduced pressure. The crude was purified by flash chromatography (eluent gradient: from cyclohexane:AcOEt/5:1 to 1:2), get 4.70 g of the title compound (56%).

reactant | 2-(5-Bromo-2-chloro-phenyl)-5-methoxy-1H-benzoimidazole | 19.29 mmol, 6.50 g | BrC=1C=CC(=C(C1)C1=NC2=C(N1)C=CC(=C2)OC)Cl | C14H10BrClN2O
reactant | Boc2O | 25.07 mmol, 5.47 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.93 mmol, 0.23 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-(5-Bromo-2-chloro-phenyl)-5-methoxy-benzoimidazole-1-carboxylic acid tert-butyl ester | 4.70 g, 56% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)OC)C2=C(C=CC(=C2)Br)Cl | C19H18BrClN2O3
